US06800629B2
In 3.6 mL of dimethyl sulfoxide was dissolved 0.20 g of 6-chloro-3-(phenylsulfanyl)-2-pyrazinecarbonitrile. After adding 0.42 g of potassium fluoride and 0.16 g of tetra-n-butylammonium bromide successively, the mixture thus obtained was stirred at 50-60° C. for 2.5 hours. The reaction mixture was poured into a mixture of 20 mL of ethyl acetate and 20 mL of water, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: toluene:n-hexane=1:2] to obtain 0.10 g of 6-fluoro-3-(phenylsulfanyl)-2-pyrazinecarbonitrile as a light yellow-colored oily product.

reactant | 6-chloro-3-(phenylsulfanyl)-2-pyrazinecarbonitrile | 0.20 g | ClC1=CN=C(C(=N1)C#N)SC1=CC=CC=C1 | C11H6ClN3S
reactant | potassium fluoride | 0.42 g | [F-].[K+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 20 mL | O | H2O
solvent | dimethyl sulfoxide | 3.6 mL | CS(=O)C | C2H6OS
catalyst | tetra-n-butylammonium bromide | 0.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-fluoro-3-(phenylsulfanyl)-2-pyrazinecarbonitrile | 0.10 g | FC1=CN=C(C(=N1)C#N)SC1=CC=CC=C1 | C11H6FN3S
